US09145441B2
Compound 77d. (E)-(R)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoic acid
A solution of (R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoic acid (214.1 0.728 mmol), acetic acid (R)-1-(7-bromo-quinolin-2-yl)-ethyl ester (167.7 mg, 0.728 mmol), palladium(II)acetate (33.0 mg, 0.146 mmol), tri(o-tolyl)phosphine (44.4 mg, 0.146 mmol) and N,N-dicyclohexylmethylamine (390 μL, 1.820 mmol) in anhydrous 1,4-dioxane (10 mL) was heated at reflux for 3 h, after which palladium(II)acetate (33.0 mg, 0.146 mmol) and tri(o-tolyl)phosphine (44.4 mg, 0.146 mmol) were added. After 1.5 h, the heating was stopped and the reaction was allowed to stand at room temperature overnight. The mixture was then treated with palladium(II)acetate (33.0 mg, 0.146 mmol) and tri(o-tolyl)phosphine (44.4 mg, 0.146 mmol). After stirring at reflux for 3 h, the mixture was cooled to room temperature, quenched with hydrochloric acid (1 M, 10 mL). The aqueous layer was extracted with ethyl acetate (2×). The organics were combined, dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 25 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/ethyl acetate 1:0 to 1:1 to afford the title compound (275.5 mg, 85%) as a yellow oil. 1H NMR (300 MHz, CDCl3) δ 0.04 (s, 9H), 1.02 (dd, J=9.1, 7.3 Hz, 2H), 1.50 (s, 3H), 1.69 (d, J=6.7 Hz, 3H), 2.18 (s, 3H), 3.59-3.76 (m, 4H), 6.07 (q, J=6.7 Hz, 1H), 6.67 (ABq, ΔδAB=0.15, JAB=16.3 Hz, 2H), 7.44 (d, J=8.2 1H), 7.62 (dd, J=8.5, 1.3 Hz, 1H), 7.75 (d, J=8.5 Hz, 1H), 8.05 (s, 1H), 8.12 (d, J=8.5 Hz, 1H). LCMS (m/z) 444.1 [M+H], Tr=3.29 min.

reactant | (R)-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoic acid | 0.728 mmol | C[C@@](C(=O)O)(C=C)COCC[Si](C)(C)C | C11H22O3Si
reactant | acetic acid (R)-1-(7-bromo-quinolin-2-yl)-ethyl ester | 0.728 mmol, 167.7 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O | C13H12BrNO2
reactant | tri(o-tolyl)phosphine | 0.146 mmol, 44.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | N,N-dicyclohexylmethylamine | 1.820 mmol, 390 μL | C1(CCCCC1)CNCC1CCCCC1 | C14H27N
reactant | tri(o-tolyl)phosphine | 0.146 mmol, 44.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | tri(o-tolyl)phosphine | 0.146 mmol, 44.4 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II)acetate | 0.146 mmol, 33.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II)acetate | 0.146 mmol, 33.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II)acetate | 0.146 mmol, 33.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (E)-(R)-4-[2-((R)-1-Acetoxy-ethyl)-quinolin-7-yl]-2-methyl-2-(2-trimethylsilanyl-ethoxymethyl)-but-3-enoic acid | 275.5 mg, 85% | C(C)(=O)O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/[C@@](C(=O)O)(COCC[Si](C)(C)C)C | C24H33NO5Si
